US05591862
According to the method described for Reference Example 35, (E)-3-[4-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]-2-propen-1-al was allowed to react with diethyl cyanomethylphosphonate to give (E,E)-5-[4-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]-2,4-pentadienenitrile. Then, according to the method described for Reference Example 16, (E,E)-5-[4-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]-2,4-pentadienenitrile was subjected to catalytic reduction to give 5-[4-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]valeronitrile. Recrystallization from ethyl acetate--ether--hexane gave colorless prisms, m.p.65°-66° C.

reactant | (E)-3-[4-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]-2-propen-1-al | CC1=C(N=C(O1)COC1=CC=C(C=C1)/C=C/C=O)C1=CC=CC=C1 | C20H17NO3
reactant | diethyl cyanomethylphosphonate | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
product | (E,E)-5-[4-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]-2,4-pentadienenitrile | CC1=C(N=C(O1)COC1=CC=C(C=C1)/C=C/C=C/C#N)C1=CC=CC=C1 | C22H18N2O2
